US08431569B2
Step 2. 8-Fluoro-1-[(3-fluoro-4-hydroxycyclohexyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile
To a stirred solution of 1-[(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorocyclohexyl)amino]-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile (135 mg, 0.296 mmol) in THF (4 mL) was added TBAF (1.0 M, 0.89 mL, 0.89 mmol). After the reaction was complete, the reaction was quenched with sodium bicarbonate solution. The mixture was extracted with EtOAc, and the combined organics were dried, concentrated, and purified by prep-HPLC to afford the title compound. LRMS (APCI) calc'd for (C18H16F2N4O) [M+H]+, 343.1. found 343.0.

reactant | 1-[(4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorocyclohexyl)amino]-8-fluoro-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.296 mmol, 135 mg | [Si](C)(C)(C(C)(C)C)OC1C(CC(CC1)NC1=NC=C(C=2NC=3C=CC(=CC3C21)F)C#N)F | C24H30F2N4OSi
reactant | TBAF | 0.89 mmol, 1.0 M, 0.89 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 8-Fluoro-1-[(3-fluoro-4-hydroxycyclohexyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile | FC1=CC=2C3=C(NC2C=C1)C(=CN=C3NC3CC(C(CC3)O)F)C#N | C18H16F2N4O
